US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.09 g, 0.192 mmol), 1-(4-fluorophenyl)propan-2-ol (0.08 g, 0.519 mmol) and Ph3P (0.151 g, 0.576 mmol) in THF (5 mL) was added DEAD (0.091 ml, 0.576 mmol) at 0° C. After 2 h, cold bath was removed and stirred for 15 h at rt. Then, purified by prep-HPLC to afford (2S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((1-(4-fluorophenyl)propan-2-yl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0778 g, 0.129 mmol, 67.0% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.27-7.21 (m, 2H), 7.15 (dd, J=8.6, 2.3 Hz, 1H), 7.07 (dt, J=8.2, 2.1 Hz, 1H), 7.03-6.93 (m, 4H), 6.08 (s, 1H), 4.63 (qd, J=6.1, 3.8 Hz, 1H), 4.26 (dq, J=10.8, 7.1 Hz, 1H), 4.17 (dq, J=10.9, 7.1 Hz, 1H), 3.18 (d, J=11.0 Hz, 1H), 3.08 (dd, J=13.9, 6.0 Hz, 1H), 2.93-2.83 (m, 2H), 2.61 (s, 3H), 2.27 (d, J=8.8 Hz, 1H), 2.22 (s, 3H), 2.04 (t, J=11.7 Hz, 1H), 1.67-1.60 (m, 1H), 1.59-1.51 (m, 1H), 1.36 (d, J=6.1 Hz, 3H), 1.34 (d, J=6.1 Hz, 3H), 1.26 (t, J=7.2 Hz, 3H), 1.21 (s, 9H), 1.19-1.15 (m, 1H), 1.09-1.03 (m, 1H), 0.90 (br. s., 3H), 0.62 (br. s., 3H). LCMS (M+H)=605.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.192 mmol, 0.09 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 1-(4-fluorophenyl)propan-2-ol | 0.519 mmol, 0.08 g | FC1=CC=C(C=C1)CC(C)O | C9H11FO
reactant | Ph3P | 0.576 mmol, 0.151 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.576 mmol, 0.091 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((1-(4-fluorophenyl)propan-2-yl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.129 mmol, 0.0778 g, 67.0% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OC(CC1=CC=C(C=C1)F)C)C)C | C37H49FN2O4
